US07598391B2
[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid methyl ester
Prepared as described in general procedure (D) using 3-(5-bromo-thiazol-2-yl)-1,1-dicyclohexyl-urea and methyl thioglycolate

reactant | 3-(5-bromo-thiazol-2-yl)-1,1-dicyclohexyl-urea | BrC1=CN=C(S1)NC(N(C1CCCCC1)C1CCCCC1)=O | C16H24BrN3OS
reactant | methyl thioglycolate | C(CS)(=O)OC | C3H6O2S
product | [2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid methyl ester | COC(CSC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C19H29N3O3S2
